US09079866B2
5-{2′-[(6-Aminopyrimidin-4-yl)oxy]-3-fluoro-4′-(trifluoromethyl)biphenyl-4-yl}pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 555 using 6-chloropyrimidin-4-amine and 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol. MS (ESI): mass calcd. for C21H14F4N6O, 442.12; m/z found, 443.0 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.60-8.54 (d, J=1.3, 2H), 8.11-8.07 (d, J=0.9, 1H), 7.82-7.69 (m, 2H), 7.60 (s, 1H), 7.59-7.52 (m, 1H), 7.47-7.36 (m, 2H), 5.95-5.88 (d, J=0.9, 1H).

reactant | 6-chloropyrimidin-4-amine | ClC1=CC(=NC=N1)N | C4H4ClN3
reactant | 4′-(2-aminopyrimidin-5-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)O)F | C17H11F4N3O
product | 5-{2′-[(6-Aminopyrimidin-4-yl)oxy]-3-fluoro-4′-(trifluoromethyl)biphenyl-4-yl}pyrimidin-2-amine | NC1=CC(=NC=N1)OC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C21H14F4N6O
